US05624936
Step C: [1-(4-Cyanobenzyl)-1H-imidazol-5-yl]acetic acid methyl ester
To a solution of 1-(triphenylmethyl)-1H-imidazol-4-ylacetic acid methyl ester (8.00 g, 20.9 mmol) in acetonitrile (70 ml) was added bromo-p-toluonitrile (4.10 g, 20.92 mmol) and heated at 55° C. for 3 hr. After this time, the reaction was cooled to room temperature and the resulting imidazolium salt (white precipitate) was collected by filtration. The flitrate was heated at 55° C. for 18 hr. The reaction mixture was cooled to room temperature and evaporated in vacuo. To the residue was added EtOAc (70 ml) and the resulting white precipitate collected by filtration. The precipitated imidazolium salts were combined, suspended in methanol (100 ml) and heated to reflux for 30 min. After this time, the solvent was removed in vacuo, the resulting residue was suspended in EtOAc (75 ml) and the solid isolated by filtration and washed (EtOAc). The solid was treated with sat aq NaHCO3 (300 ml) and CH2Cl2 (300 ml) and stirred at room temperature for 2 hr. The organic layer was separated, dried (MgSO4) and evaporated in vacuo to afford the title compound as a white solid:

reactant | 1-(triphenylmethyl)-1H-imidazol-4-ylacetic acid methyl ester | 20.9 mmol, 8.00 g | COC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H22N2O2
reactant | bromo-p-toluonitrile | 20.92 mmol, 4.10 g | BrC1=C(C=CC(=C1)C#N)C | C8H6BrN
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | [1-(4-Cyanobenzyl)-1H-imidazol-5-yl]acetic acid methyl ester | COC(CC1=CN=CN1CC1=CC=C(C=C1)C#N)=O | C14H13N3O2
